US07888366B2
To a cold (ice water) suspension of sodium hydride (316 mg; 7.9 mmol) in anhydrous DMF (10 mL) is added a solution of 3-methylbenzenethiol (941 uL; 7.9 mmol) in anhydrous DMF (5 mL) over 10 minutes. After allowing to room temperature over 30 minutes, this solution is added to a cold (ice water) stirred solution of 2,6-difluorobenzonitrile (1 g; 7.2 mmol) in anhydrous DMF (15 mL), and allowed to room temperature over 3 hours. The reaction mixture is poured into ice water with vigorous stirring and the resulting precipitate is removed by filtration and dried under vacuum overnight to give 1.74 grams of 2-fluoro-6-m-tolylsulfanylbenzonitrile.

reactant | sodium hydride | 7.9 mmol, 316 mg | [H-].[Na+]
reactant | 3-methylbenzenethiol | 7.9 mmol, 941 uL | CC=1C=C(C=CC1)S | C7H8S
reactant | 2,6-difluorobenzonitrile | 7.2 mmol, 1 g | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 2-fluoro-6-m-tolylsulfanylbenzonitrile | 1.74 grams | FC1=C(C#N)C(=CC=C1)SC=1C=C(C=CC1)C | C14H10FNS
